US07384934B2
Combine 7-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (0.399 g, 1.20 mmol), (S)-2-(3-methoxy-propyl)-piperazine (0.381 g, 2.41 mmol), and diisopropylethyl amine (0.21 mL, 1.20 mmol) in a mixture of toluene (4.5 mL) and dimethylsulfoxide (1.5 mL) and stir at 110° C. for 24 hours. Evaporate the mixture then purify by flash chromatography, eluting with a step gradient starting with dichloromethane going to 7% 2N ammonia-methanol in dichloromethane gives (s)-7-fluoro-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine (0.268 g, 0.614 mmol, 51%) as a yellow oil. Mass spectrum (APCI): m/z=437.2 (M+1).

reactant | 7-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.20 mmol, 0.399 g | Cl.FC1=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C=C1
reactant | (S)-2-(3-methoxy-propyl)-piperazine | 2.41 mmol, 0.381 g | COCCC[C@@H]1NCCNC1 | C8H18N2O
reactant | diisopropylethyl amine | 1.20 mmol, 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 1.5 mL | CS(=O)C | C2H6OS
product | (s)-7-fluoro-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine | 0.614 mmol, 0.268 g, 51% | FC1=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N3C[C@@H](NCC3)CCCOC)C=C1 | C22H24F4N4O
